US07345049B2
2.5 mL of 15% sodium methylmercaptan aqueous solution was added to the mixture of 11.0 g (5.40 mmol) of 5-fluoro-2-nitrobenzoic acid and 5 mL of ethanol and stirred for 2 days. Then, 10 mL of water was added and pH thereof was adjusted to become 1 by concentrated hydrochloric acid. After filtering out the precipitated compound, it was washed with water, ether and hexane and dried to obtain a crude material of 5-methylthio-2-nitrobenzoic acid. 3 mL of thionyl chloride was added to the obtained crude material and stirred for 5 hours. The thionyl chloride was removed to obtain the title compound.

reactant | sodium methylmercaptan | 2.5 mL | CS.[Na]
reactant | 5-fluoro-2-nitrobenzoic acid | 5.40 mmol, 11.0 g | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 5-methylthio-2-nitrobenzoic acid | CSC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO4S
